US06342523B1
Synthesis of α-(4-n-Pentanoyl-3,5-di-tert-butylphenyl)-N-tert-butylnitrone
To a solution of 4-pentanoyl-3,5-di-ter-butylbenzaldehyde (17.48 g, 0.050 mol) in benzene (250 mL) was added tert-butylhydroxylamine (4.57 g, 0.0510 mol) and p-toluenesulfonic acid (0.080 g). Using a Dcan-Stark trap, the resulting mixture was refluxed until no more aldehyde was detected by TLC (Rf=0.43 for product using 1:1 hexanes/EtOAc). The solvent was removed in vacuo and the residue was thoroughly washed with hexanes. The title compound was isolated (56.50% yield) as a white solid, m.p. 195.5-204.8° C.

reactant | 4-pentanoyl-3,5-di-ter-butylbenzaldehyde | 0.050 mol, 17.48 g | C(CCCC)(=O)C1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C20H30O2
reactant | tert-butylhydroxylamine | 0.0510 mol, 4.57 g | C(C)(C)(C)NO | C4H11NO
reactant | p-toluenesulfonic acid | 0.080 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 250 mL | C1=CC=CC=C1 | C6H6
product | α-(4-n-Pentanoyl-3,5-di-tert-butylphenyl)-N-tert-butylnitrone | 56.50% yield | C(CCCC)(=O)C1=C(C=C(C=C1C(C)(C)C)C=[N+]([O-])C(C)(C)C)C(C)(C)C | C24H39NO2
